Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with know hx of cirrhosis, portal hypertension, esophgeal 
varices w/ banding, T1DM, and HTN, who presents with sub-sternal 
chest pain for a duration of approximately 30 minutes. The 
patient describes being in the shower and having jaw pain. She 
has had this in the past, and she knew that she was going to 
have chest pain. A few minutes later she began to have chest 
pain, sub-sternal, dull, moderate in intensity. It was not 
associated with dyspnea, nausea or vomiting. She laid down for a 
while and the pain susbsided, but was not completely resolved. 
Then she went to her GI doctor's office and her blood pressure 
was 193/76. She was given one SL NTG without complete resolution 
of the pain. She was sent to the ED for further workup.
.
She denies recent fevers or chills, abdominal pain or 
palpitations. She admits to getting this chest pain when walking 
up stairs, but sometimes at rest. She also reports occasional 
dyspnea on exertion.
.
In the ED her vitals signs were T 98.7  HR 74  BP 159/60  RR 20  
O2sat 100/2L NC. She was given 325mg ASA and SL NTG x1 and was 
pain-free on transport to the floor. EKG was NSR at a rate of 
76, no ST elevation or ischemic changes, similar to previous 
from ___.
.
On the floor she was feeling well with no chest pain. She 
remains on supplemental O2 until she is ruled out for MI. She is 
pain free and is hungry. An EKG was performed and was unchanged 
from the ED.
 
Past Medical History:
cryptogenic liver cirrhosis
portal hypertension
esophageal varices 
T1DM-poorly controlled
S/p lense replacement 
thrombocytopenia
hemorrhoids
HTN
retinopathy
hearing loss 
 
Social History:
___
Family History:
Daughter with ___, brother with throat cancer, sister with 
lung cancer, mother with "abdominal" cancer  

 
Physical Exam:
VS: T 98.2  HR 74  BP 142/64  RR 18  O2sat ___ NC. 
General: Awake, alert, NAD, pleasant, appropriate, cooperative, 
does not speak ___, was able to communicate with daughter 
___, EOMI, no scleral icterus, MMM, no lesions noted in 
OP  
Neck: supple, no significant JVD or carotid bruits appreciated  
Pulmonary: Bibasilar fine inspiratory rales, adequate air 
movement, upper airways clear
Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
Abdomen: soft, NT, protuberant, normoactive bowel sounds, no 
masses or organomegaly noted, liver edge not palpated
Extremities: 2+ edema to ___ up to knees, 2+ radial, DP pulses 
b/l, compartments soft
Skin: no rashes or lesions noted.  
Neurologic: Alert, oriented x 3. Cranial nerves II-XII intact. 
Normal bulk, strength and tone throughout. No abnormal movements 
noted. No deficits to light touch throughout. No nystagmus, 
dysarthria, intention or action tremor.
 
Pertinent Results:
___ 04:40PM   PLT COUNT-135*
___ 04:40PM   NEUTS-63.7 ___ MONOS-5.0 EOS-3.2 
BASOS-0.7
___ 04:40PM   WBC-4.8 RBC-3.59* HGB-10.0* HCT-30.2* MCV-84 
MCH-28.0 MCHC-33.2 RDW-14.3
___ 04:40PM   ALBUMIN-3.8
___ 04:40PM   CK-MB-NotDone
___ 04:40PM   cTropnT-<0.01
___ 04:40PM   LIPASE-28
___ 04:40PM   ALT(SGPT)-33 AST(SGOT)-55* CK(CPK)-74 ALK 
PHOS-119* TOT BILI-0.3
___ 04:40PM   estGFR-Using this
___ 04:40PM   GLUCOSE-236* UREA N-22* CREAT-0.9 SODIUM-133 
POTASSIUM-5.4* CHLORIDE-103 TOTAL CO2-24 ANION GAP-11
___ 05:58PM   POTASSIUM-5.3*
___ 05:45AM BLOOD WBC-4.6 RBC-3.45* Hgb-9.4* Hct-29.4* 
MCV-85 MCH-27.4 MCHC-32.1 RDW-14.6 Plt ___
___ 05:45AM BLOOD Glucose-198* UreaN-20 Creat-0.9 Na-137 
K-4.2 Cl-103 HCO3-25 AnGap-13
___ 05:45AM BLOOD CK(CPK)-47
___ 05:45AM BLOOD CK-MB-NotDone cTropnT-<0.01 proBNP-298
.
.
Imaging: 
___ CXR: Exam is limited due to patient body habitus and 
poor inspiratory effort. Given these limitations, no definite 
focal consolidation, pneumothorax, pneumonia, or effusion/edema. 
Mild streaky atelectasis is noted within the retrocardiac 
region. Right upper lobe and right hila granulomas is stable. 
Atherosclerotic calcifications are noted within the aortic arch 
and descending aorta. Included portion of the upper abdomen 
appears unremarkable. 
 
Brief Hospital Course:
A/P: ___ F with know hx of cirrhosis, portal hypertension, 
esophageal varices w/ banding, IDDM, and HTN, who presents with 
chest pain for a duration of approximately 30 minutes, resolved 
in the ED with NTG. R/o for AMI by EKG and 2 sets neg CE. 
.
#Chest pain, sub-sternal: These episodes have happened ___ 
times, per family, sometimes at rest, sometimes with ambulation, 
so there is a question that she might have worsening cardiac 
disease. The patient was ruled out for MI by 2 sets of negative 
cardiac enzymes, and the proBNP not elevated (298). There is 
question of medication compliance as the patient's BP has been 
elevated recently. It is recommended that the patient have an 
outpatient stress test MIBI through her PCP.
.
#DM type 2 - insulin dependent: There is question of poor 
compliance as evidenced by HgbA1c at >9.0, and the patient and 
family describing altered dosing regimen depending on the 
patient's status. She explains that there are times where she 
thinks there is too much insulin, which makes her "feel bad". At 
times she takes less than is prescribed.
.
#HTN: We continued her home dose of lisinopril.
.
#Cryptogenic liver disease: We continued her home dose of 
propranalol. The patient's daughter states that the patient only 
takes it BID, as opposed to TID.
.
The patient remained stable throughout her course. She was 
discharged with strict instructions for follow-up and symptom 
surveillance. Her son was spoken with at length and agrees with 
plan. He will try to encourage adherence.

 
Medications on Admission:
lisinopril 5 mg once a day
omeprazole 20 mg once a day
propranolol 10 mg 3 times a day
NPH insulin 40 units in the morning and 30 units in the evening.
Lasix 40 qd - started ___
NTG SL, prn chest pain - started ___
 
Discharge Medications:
1. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Propranolol 10 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
3. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Tablet(s) 
5. NitroQuick 0.3 mg Tablet, Sublingual Sig: One (1) tablet 
Sublingual q 5 minutes as needed for chest pain: ___ take 3 over 
15 minutes, and then call ___ if pain persists.
Disp:*60 tablets* Refills:*3*
6. Humulin N 100 unit/mL Suspension Sig: 42 units in AM and 
___ units in ___ units Subcutaneous 42 units in the AM and 
___ units in the ___.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Chest pain, NOS

Secondary diagnoses:
T2DM - insulin dependent
HTN
cirrhosis
portal HTN
esophageal varices

 
Discharge Condition:
Good, VSS, pain free, ambulating, voiding, tolerating diet

 
Discharge Instructions:
You were admitted to the hospital for chest pain.  Two sets of 
cardiac enzymes showed no sign you were having a heart attack 
and your EKG was unchanged from before.  Your chest xray did not 
show any sign of pneumonia or heart failure.  Your pain was most 
likely related to acid reflux, but it could also be related to 
heart disease.
.
Please follow up with your PCP within one week - earlier is 
better. You will probably need to have a repeat stress test as 
an outpatient to look at your heart function. It is extremely 
important that you follow up with your PCP, as you could have a 
life-threatening problem that needs treatment.
.
Your medications were not changed, but you need to take ALL of 
them EXACTLY as prescribed. The medications do not work properly 
or may be harmful to you if you do not use them as directed, 
especially your blood pressure medications and insulin. Your 
blood sugar in the hospital was high, and it is important that 
you do not alter your dose at home because you do not have 
adequate control over it at this time.
.
You should call your PCP urgently or return to the ED if you 
experience worsening shortness of breath, chest pain, or any 
other concerning symptoms. You were given a prescription for 
nitroglycerine to put under your tongue when you have chest 
pain. Please take this medication if you have more chest pain 
and return to the Emergency Department right away if your pain 
is not resolved with nitroglycerine, especially if it is before 
you meet with your PCP.
.
All of these instructions were related to your son, ___. He 
will help you follow up with the outpatient instructions.
 
Followup Instructions:
___